US20010014691A1
2-(5-Bromo-3-pyridylthio)ethan-1-ol
Under a nitrogen atmosphere, a mixture of 2-mercaptoethanol (3.30 g, 42.21 mmol), sodium hydroxide (1.69 g, 42.21 mmol) and N,N-dimethylformamide (50 mL) was stirred at ambient temperature for 4 h. The resulting solution was cooled to 0-5° C. and 3,5-dibromopyridine (8.00 g, 33.77 mmol) was added in one portion. The mixture was stirred at 0-5° C. for 20 min, warmed to ambient temperature and further stirred for 1 h. TLC analysis on silica gel eluting with EtOAc-hexane (3:1) indicated an incomplete reaction. Therefore, the mixture was heated at 75° C. (oil bath temperature) for 17 h. After cooling to ambient temperature, the mixture was poured into water (250 mL) and extracted with ether (3×75 mL). The combined ether extracts were dried (Na2SO4), filtered and concentrated (rotary evaporator) to a light-yellow oil. The oil was vacuum distilled using a short-path distillation apparatus to afford 4.55 g (57.5%) of a light-yellow oil, bp 138-140° C. at 0.35 mm Hg.

reactant | 2-mercaptoethanol | 42.21 mmol, 3.30 g | SCCO | C2H6OS
reactant | sodium hydroxide | 42.21 mmol, 1.69 g | [OH-].[Na+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | 3,5-dibromopyridine | 33.77 mmol, 8.00 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | water | 250 mL | O | H2O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 2-(5-Bromo-3-pyridylthio)ethan-1-ol | 4.55 g, 57.5% | BrC=1C=C(C=NC1)SCCO | C7H8BrNOS
